US05114945
(i) cis-1-[(3,4-Dichlorophenyl)acetyl]-3-methyl-2-piperidinemethanol
A solution of 3,4-dichlorophenylacetic acid (1.82 g) and 1,1'-carbonyldiimidazole (1.70 g) in dry tetrahydrofuran (30 ml) was stirred at room temperature under nitrogen for 20 min. A solution of cis-3-methyl-2-piperidinemethanol (1.15 g) in dry tetrahydrofuran (10 ml) was then added and stirring was continued for 16 h. before concentrating the reaction mixture in vacuo. The residue was dissolved in dichloromethane (50 ml), and this solution was washed with 2M hydrochloric acid (50 ml) and saturated aqueous sodium hydrogen carbonate (20 ml), dried and concentrated in vacuo to give a solid. This crude product was crystallised from ethyl acetate:methanol to give the isomerically pure title compound as needles (1.69 g) m.p. 161°-162°.

reactant | 3,4-dichlorophenylacetic acid | 1.82 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | 1,1'-carbonyldiimidazole | 1.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cis-3-methyl-2-piperidinemethanol | 1.15 g | C[C@@H]1[C@@H](NCCC1)CO | C7H15NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | cis-1-[(3,4-Dichlorophenyl)acetyl]-3-methyl-2-piperidinemethanol | 1.69 g | ClC=1C=C(C=CC1Cl)CC(=O)N1[C@H]([C@H](CCC1)C)CO | C15H19Cl2NO2
